US07872014B2
A solution of {3-fluoro-4-(methyloxy)-5-[(phenylmethyl)oxy]phenyl}methanol (2.69 g, 10.26 mmol.) in dichloromethane (40 mL) was cooled to 0° C. followed by addition of pyridine (913 uL, 11.3 mmol.) then thionyl chloride (750 uL, 10.3 mmol.). The mixture was then allowed to warm to room temperature followed by addition of a second aliquot of pyridine (400 uL). After 5 minutes the organic solution was washed once with 0.1M aqueous hydrochloric acid then dried over anhydrous magnesium sulfate. Filtration and concentration afforded 5-(chloromethyl)-1-fluoro-2-(methyloxy)-3-[(phenylmethyl)oxy]benzene (2.88 g, 100% yield) as a clear oil that was used without further purification. GCMS for C15H14O2FCl: 280 (M+).

reactant | {3-fluoro-4-(methyloxy)-5-[(phenylmethyl)oxy]phenyl}methanol | 10.26 mmol, 2.69 g | FC=1C=C(C=C(C1OC)OCC1=CC=CC=C1)CO | C15H15FO3
reactant | pyridine | 11.3 mmol, 913 uL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 10.3 mmol, 750 uL | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 400 uL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 5-(chloromethyl)-1-fluoro-2-(methyloxy)-3-[(phenylmethyl)oxy]benzene | 2.88 g, 100% yield | ClCC=1C=C(C(=C(C1)F)OC)OCC1=CC=CC=C1 | C15H14ClFO2
